US05756497
To a stirred solution of triphenylphosphine (57.2 g, 0.218 mol) and methyl 2,4-dihydroxybenzoate (29.2 g, 0.174 mol) in dry THF (250 mL) at 0° C. was added a solution of N-t-butyloxy-4-piperidinol (43.8 g, 0.218 mol) and diethyl azodicarboxylate (37.9 mL, 0.218 mol) in dry THF (150 mL) dropwise over a period of 2 h. The resulting solution was warmed to ambient temperature over 2 h and stirred for an additional 16 h. The solvent was concentrated to half of the original volume under reduced pressure, ether (200 mL) was added, and the mixture was cooled to 0° C. for 3 h. The precipitated triphenylphosphine oxide was removed by filtration and washed with cold ether, and the filtrate solvents were removed under reduced pressure. The residue was purified by pressurized silica gel column chromatography using a gradient elution of 10-25% EtOAc-hexane. Methyl 4-(N-t-butoxycarbonyl-4-piperidinyloxy)-2-hydroxybenzoate was obtained as a waxy solid.

reactant | triphenylphosphine | 0.218 mol, 57.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 2,4-dihydroxybenzoate | 0.174 mol, 29.2 g | OC1=C(C(=O)OC)C=CC(=C1)O | C8H8O4
reactant | N-t-butyloxy-4-piperidinol | 0.218 mol, 43.8 g | C(C)(C)(C)ON1CCC(CC1)O | C9H19NO2
reactant | diethyl azodicarboxylate | 0.218 mol, 37.9 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | Methyl 4-(N-t-butoxycarbonyl-4-piperidinyloxy)-2-hydroxybenzoate | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC(=C(C(=O)OC)C=C1)O | C18H25NO6
